Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]#[C:5][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:6],3.10411879873
[C:1]#[C:2].[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-7.82403265757
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][H:9],3.94730030743
[C:9]([H:10])[H:11].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6][O:7][H:8]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-6.96923342151
[H:1][C:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])\[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2],5.92599625898
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.14518993114
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:7]([H:8])#[C:9][C:10]([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5][H:6],4.07821601029
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[C:3]([H:4])([H:5])[O:6][C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][C:2],4.90502658421
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[O:11][H:12].[H:6],2.01474037357
[H:1][O:2][C:3]#[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-2.52567346133
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],4.20651898935
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.8100545178
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]#[C:4][H:5],1.90649456716
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][C:2](=[O:3])[C:10]([H:11])([H:12])[H:13],-2.11316608
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8],4.55713986326
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9].[O:10]=[C:11]([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15],-0.20448875282900006
[C:5](#[C:6][O:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11],-0.70931755816
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12][H:13]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12][H:13].[H:1],3.80908843307
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[C:8]2[O:9][C:10]12>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][C:10],0.507539809851
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-1.87349544615
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.5224010690399998
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11][H:12]>>[H:1][C:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]#[C:11][H:12],0.397129725719
[C:1]#[C:2][C:3]([C:4]([O:5])([H:6])[H:7])=[C:8]([H:9])[H:10].[H:11]>>[C:1]#[C:2][C:3]([C:4]([O:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-3.67795819235
[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],3.67484590504
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],4.37859280063
[O:1][O:2][C@@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9],1.5162413713299998
[C:3][O:4][C:5]([H:6])[C:7]#[C:8][H:9].[H:1][C:2]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]#[C:8][H:9],-8.3730421578
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:3],4.96017497072
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:7].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.16584625691
